US08293917B2
(S,S)-2-Methyl-propane-2-sulfinic acid 1-(6-trifluoromethyl-pyridin-2-yl)-butylamide (290 mg, 0.92 mmol) is treated with HCl in dioxane (4.0 N solution, 10 mL, 40 mmol) at room temperature and stirred for 30 min. The reaction mixture is concentrated in vacuo to afford (S)-1-(6-trifluoromethyl-pyridin-2-yl)-butylamine hydrochloride (200 mg, 88%) which is used without further purification [note: the enantiomeric purity (% ee) has not been determined].

reactant | (S,S)-2-Methyl-propane-2-sulfinic acid 1-(6-trifluoromethyl-pyridin-2-yl)-butylamide | 0.92 mmol, 290 mg | FC(C1=CC=CC(=N1)[C@H](CCC)N[S@@](=O)C(C)(C)C)(F)F | C14H21F3N2OS
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4.0 N, 10 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(6-trifluoromethyl-pyridin-2-yl)-butylamine hydrochloride | 200 mg, 88% | Cl.FC(C1=CC=CC(=N1)[C@H](CCC)N)(F)F | InChI=1S/C10H13F3N2.ClH/c1-2-4-7(14)8-5-3-6-9(15-8)10(11,12)13;/h3,5-7H,2,4,14H2,1H3;1H/t7-;/m0./s1
